US09260425B2
2-(4-(3-(6-fluoropyridin-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetamide 178
A mixture of 60 mg (0.142 mmol) of 2-(4-(3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetamide and 2 ml of trifluoroacetic acid was stirred for 18 hours. The mixture was concentrated in vacuum, the residue stirred with 5 ml of saturated aqueous sodium bicarbonate for 30 min. The precipitate was collected by filtration, washed with water and recrystallized from methanol affording 35 mg (26%) of 178 over 4 steps. ESI MS m/z 338.0 (M+1). 1H NMR (400 MHz, DMSO): 14.02 (s, 1H), 9.10 (s, 1H), 8.46 (s, 1H), 8.28 (s, 1H), 8.17-8.09 (m, 2H), 7.99 (s, 1H), 7.51 (s, 1H), 7.28 (s, 1H), 7.20 (dt, J=5.4, 2.7 Hz, 1H), 4.84 (s, 2H)

reactant | 2-(4-(3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetamide | 0.142 mmol, 60 mg | FC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NN(C2)CC(=O)N)C2OCCCC2 | C21H20FN7O2
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-(4-(3-(6-fluoropyridin-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetamide | FC1=CC=CC(=N1)C1=NNC2=CN=C(C=C21)C=2C=NN(C2)CC(=O)N | C16H12FN7O
